US08685969B2
5. Methyl 7-acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxylate
1-(4-Chloro-1-(2-methyl-3-nitrophenyl)-5H-pyridazino[4,5-b]indol-7-yl)ethanone (0.90 g, 2.364 mmol), methanol (30 mL, 740 mmol), DPPF (0.197 g, 0.355 mmol), palladium (II) acetate (0.080 g, 0.355 mmol), and sodium acetate (0.388 g, 4.73 mmol) were placed into a steel bomb. The bomb was evacuated and refilled with nitrogen. This operation was once repeated. The bomb was vacuumed again and then charged with CO (g) at 50 psi. The bomb was then heated at 95° C. for 20 hr. Upon cooling to room temperature, the bomb was further cooled at −78° C. and the excess CO (g) was released. The reaction mixture was diluted with ethyl acetate (20 mL) and filtered through CELITE®. The filtrate was concentrated under vacuum. The residue was diluted with ethyl acetate (180 mL), washed with water (2×40 mL) and brine (40 mL), and dried over anhydrous. The desired product, methyl 7-acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxylate (0.539 g, 1.440 mmol, 60.9% yield), was isolated as a beige solid by ISCO (120 g silica gel, 1-5% methanol/CH2Cl2).

reactant | 1-(4-Chloro-1-(2-methyl-3-nitrophenyl)-5H-pyridazino[4,5-b]indol-7-yl)ethanone | 2.364 mmol, 0.90 g | ClC1=NN=C(C2=C1NC=1C=C(C=CC21)C(C)=O)C2=C(C(=CC=C2)[N+](=O)[O-])C | C19H13ClN4O3
reactant | methanol | 740 mmol, 30 mL | CO | CH4O
reactant | sodium acetate | 4.73 mmol, 0.388 g | C(C)(=O)[O-].[Na+]
catalyst | DPPF | 0.355 mmol, 0.197 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium (II) acetate | 0.355 mmol, 0.080 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | methyl 7-acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxylate | 1.440 mmol, 0.539 g, 60.9% yield | C(C)(=O)C=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N)C)C(=O)OC | C21H18N4O3
